US07319152B2
5-[4-(2,2-dimethylpropanoyl)phenyl]-1-methyl-1H-pyrrole-2-carbonitrile
The title compound was prepared from 1-(4-bromophenyl)-2,2-dimethylpropan-1-one and 1-methyl-2-cyanopyrrole according to the coupling procedure described in example 1. MS m/z 267; HRMS: calcd for C17H18N2O+H+, 267.14919; found (ESI, [M+H]+), 267.1494.

reactant | 1-(4-bromophenyl)-2,2-dimethylpropan-1-one | BrC1=CC=C(C=C1)C(C(C)(C)C)=O | C11H13BrO
reactant | 1-methyl-2-cyanopyrrole | CN1C(=CC=C1)C#N | C6H6N2
product | 5-[4-(2,2-dimethylpropanoyl)phenyl]-1-methyl-1H-pyrrole-2-carbonitrile | CC(C(=O)C1=CC=C(C=C1)C1=CC=C(N1C)C#N)(C)C | C17H18N2O
